US04409214
To a mixture of benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (3.9 g) and anisole (3.9 ml) was added trifluoroacetic acid (15.6 ml) under ice-cooling, and the mixture was stirred at ambient temperature for an hour. To the reaction mixture was added diisopropyl ether and the precipitated crystals were collected by filtration and then washed with diisopropyl ether. To the crystals were added ethyl acetate and water, followed by adjusting to pH 7.5 with sodium bicarbonate. The separated aqueous solution was washed with ethyl acetate and then adjusted to pH 2.5 with 10% hydrochloric acid. The precipitated crystals were collected by filtration, washed with water and then dried to obtain 7-[2-(2-aminothiazol-4-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (1.09 g), mp 173°-177° C. (dec.). The filtrate and the washings were combined and saturated with sodium chloride, followed by extraction with tetrahydrofuran. The extract was washed with a saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and then evaporated to dryness to give a residue, which was pulverized with diisopropyl ether and collected by filtration to recover the same object compound (0.59 g). Total yield: 1.68 g.

reactant | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylate | 3.9 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC(C)(C)C(=O)OC(C)(C)C | C35H37N5O7S2
reactant | anisole | 3.9 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 15.6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 7-[2-(2-aminothiazol-4-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.09 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOC(C)(C)C(=O)O | C18H19N5O7S2
